US07399812B2
Preparation of 2,2-dibenzyl-1-methoxy-3-[(trimethylsilyl)oxy]propane
According to the procedure as described in Example 1,2,2-dibenzyl-1-methoxy-3-[(trimethylsilyl)oxy]propane was prepared from intermediate 2,2-dibenzyl-3-methoxy-1-propanol and reagent trimethylsilyl chloride.

reactant | 2,2-dibenzyl-3-methoxy-1-propanol | C(C1=CC=CC=C1)C(CO)(COC)CC1=CC=CC=C1 | C18H22O2
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
product | 2,2-dibenzyl-1-methoxy-3-[(trimethylsilyl)oxy]propane | C(C1=CC=CC=C1)C(COC)(CO[Si](C)(C)C)CC1=CC=CC=C1 | C21H30O2Si
